US09260439B2
Step 3: Preparation of tert-butyl(3S)-3-{4-(2-aminopyrimidin-5-yl)-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate
To a vial containing tert-butyl(3S)-3-{4-chloro-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate hydrochloride (3796 mg, 8.68 mmol) in 1,4-dioxane (41.2 mL) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (2492 mg, 11.28 mmol), and 1 M aqueous Na2CO3 (26 mL). Nitrogen was bubbled through the suspension for a few minutes before PdCl2(dppf)-DCM (516 mg, 0.632 mmol) was added and the mixture was heated in a microwave reactor at 120° C. for 30 min. The mixture was filtered through a pad of Celite® rinsing with EtOAc, and the filtrate was concentrated. The residue was purified by ISCO (80 g cartridge) using a gradient of 25-100% EtOAc/heptanes to give the title compound (3.94 g, 91%) as a yellow foamy solid. 1H NMR (400 MHz, DMSO-d6) δ 8.73 (s, 2 H), 6.60 (s, 2 H), 4.64-4.54 (m, 1 H), 4.23 (dd, J=13.5, 2.3 Hz, 1 H), 3.89 (dd, J=11.2, 3.4 Hz, 1 H), 3.79-3.35 (m, 8 H), 3.33-3.24 (m, 1 H), 3.19-3.05 (m, 3 H), 2.44-2.30 (m, 1 H), 2.10-1.95 (m, 1 H), 1.42 (s, 9 H), 1.32 (s, 3 H), 1.21 (d, J=6.7 Hz, 3 H). m/z (APCI+) for C25H36N8O3 497.6 (M+H)+.

reactant | tert-butyl(3S)-3-{4-chloro-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate hydrochloride | 8.68 mmol, 3796 mg | Cl.ClC=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 11.28 mmol, 2492 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | Na2CO3 | 1 M, 26 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 41.2 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.632 mmol, 516 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-butyl(3S)-3-{4-(2-aminopyrimidin-5-yl)-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate | 3.94 g, 91% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C | C25H36N8O3
